US05554749
A mixture of 1,4-bis-(p-toluenesulfonyl)-7-methanesulfonyl-1,4,7-triazacyclononane (38.8 g, 0.08 mol), 800 mL of glacial acetic acid and 150 mL of 48% hydrobromic acid was refluxed for 72 hours. The reaction solution was cooled to 25 C. and most of the solvents were removed under reduced pressure. Then 50 mL of 48% hydrobromic acid was added and the solvents were again evaporated. This procedure was repeated two more times to remove acetic acid. A mixture of 100 mL of absolute ethanol and 200 mL of diethyl ether was added and the solids were filtered. The solids were combined with sodium hydroxide pellets (18.0 g, 0.45 mol) in 250 mL of toluene and the mixture was refluxed for 15 hrs. The remaining solid was filtered and washed with 75 mL of hot toluene. The filtrate was concentrated to a volume of 60 mL and allowed to cool slowly to 25 C. The colorless crystals were filtered and dried to give 1-methanesulfonyl-1,4,7-triazacyclononane (11.1 g, 0.05 mol, 71%).

reactant | 1,4-bis-(p-toluenesulfonyl)-7-methanesulfonyl-1,4,7-triazacyclononane | 0.08 mol, 38.8 g | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CCN(CC1)S(=O)(=O)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C21H29N3O6S3
reactant | hydrobromic acid | 150 mL | Br | BrH
solvent | acetic acid | 800 mL | C(C)(=O)O | C2H4O2
product | 1-methanesulfonyl-1,4,7-triazacyclononane | 0.05 mol, 11.1 g, 71% | CS(=O)(=O)N1CCNCCNCC1 | C7H17N3O2S
